US07700598B2
21c (R)-3-(3,4-dichloro-phenyl)-2-hydroxy-propionic acid
A solution of 12.2 g (38.0 mmol) (1R)—B-chlorodiisopinocampheylborane in 20 mL THF was added dropwise within 30 min to a solution of 8.0 g (34.3 mmol) 3-(3,4-dichloro-phenyl)-2-oxo-propionic acid and 5.2 mL (38.0 mmol) triethylamine in 40 mL THF cooled to −35° C. and the reaction mixture was kept for 1 h at this temperature. The cooling bath was removed and the reaction solution was stirred for 4 h at RT. Then the reaction solution was carefully combined with 50 mL 1 M NaOH (exothermic) and 30 mL TBME at 5-10° C. and stirred for 15 min. The organic phase was separated off and extracted with 25 mL water and 15 mL 1 M NaOH. The combined aqueous phases were acidified with 2 M HCl and extracted three times with in each case 40 mL TBME. The combined organic phases were dried over Na2SO4 and evaporated down i. vac. The residue was dissolved in 80 mL boiling water and suction filtered through Celite. The filtrate was saturated with NaCl and extracted three times with EtOAc. The combined organic phases were filtered through Na2SO4 and again evaporated down i. vac. The crude product was further reacted without purification.

reactant | 3-(3,4-dichloro-phenyl)-2-oxo-propionic acid | 34.3 mmol, 8.0 g | ClC=1C=C(C=CC1Cl)CC(C(=O)O)=O | C9H6Cl2O3
reactant | triethylamine | 38.0 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-3-(3,4-dichloro-phenyl)-2-hydroxy-propionic acid | ClC=1C=C(C=CC1Cl)C[C@H](C(=O)O)O | C9H8Cl2O3
